US05164497
Preparation of n-Decyl Methyl Ether
Using the apparatus employed in Examples 15-27, a mixture of 1-decanol (1 mole) and dimethyl carbonate (3 mole) was passed through 11.5 grams of a magnesium:aluminum mixed metal oxide (3/16 inch pellets, Mg/Al 3:1) at a temperature of 250° C. and at a liquid feed rate of 0.34 milliliters/minute. After a period of 1.1 hour, a total of 36.5 grams of liquid was collected. Analysis was performed by capillary gas chromatography (FID) using a DB-1701 column. The results were (area %) as follows:

reactant | 1-decanol | 1 mole | C(CCCCCCCCC)O | C10H22O
reactant | dimethyl carbonate | 3 mole | C(OC)(OC)=O | C3H6O3
reactant | magnesium | 11.5 grams | [Mg] | Mg
reactant | aluminum | [Al] | Al
product | n-Decyl Methyl Ether | COCCCCCCCCCC | C11H24O
